US06087399
A solution of 3.0 g (13 mmol) of methyl 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate (J. Org. Chem. 17 (1976), 2918) in 45 ml of methanol was treated with 10 g (130 mmol) of ammonium acetate and 5.7 g (90 mmol) of sodium cyanoborohydride and heated at 60° C. for 20 hrs. After addition of 10 ml of water, the mixture was completely concentrated in vacuo and the residue was taken up in EA and aqueous ammonia. The organic phase was washed with water, dried over magnesium sulfate and concentrated in a rotary evaporator, and 2.9 g of methyl 5-amino-7,7-dimethyl-5,6,7,8-tetrahydro-1-naphthalenecarboxylate were obtained.

reactant | methyl 7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 13 mmol, 3.0 g | CC1(CC(C=2C=CC=C(C2C1)C(=O)OC)=O)C | C14H16O3
reactant | ammonium acetate | 130 mmol, 10 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 90 mmol, 5.7 g | C(#N)[BH3-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 45 ml | CO | CH4O
product | methyl 5-amino-7,7-dimethyl-5,6,7,8-tetrahydro-1-naphthalenecarboxylate | 2.9 g | NC1C=2C=CC=C(C2CC(C1)(C)C)C(=O)OC | C14H19NO2
